US08217066B2
Step 2: 1-{4′-[4-((E)-2-Methoxycarbonyl-vinyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using (E)-3-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acrylic acid methyl ester and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | (E)-3-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acrylic acid methyl ester | COC(\C=C\C=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C14H12BrNO3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[4-((E)-2-Methoxycarbonyl-vinyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)\C=C\C(=O)OC | C26H25NO5
